US05550262
Step 13: Preparation of 6-cyanohexane-l-sulfinic acid sodium salt:
In a three necked flask, fitted with a water condenser, a mechanical stirrer and a dropping funnel was placed a solution of 1-bromo-6-cyanohexane (8.04 g, 42.3 mmol) in 75 mL of 95% EtOH was prepared. The mixture was heated to reflux and to it was slowly added a solution of sodium sulfite (8.00 g, 63.5 mmol) in 50 mL of H2O over a period of 30 min. The mixture was heated for 2 h and then concentrated under reduced pressure. The residue was dissolved in 95% EtOH (200 ml), heated to boiling and filtered. The filtrate was concentrated and cooled in an ice bath. The precipitate was collectedby filtration and dried to give 3.00 g of a white solid. The mother liquor on further concentration, produced another batch of 2.2 g of the product.

reactant | 1-bromo-6-cyanohexane | 42.3 mmol, 8.04 g | BrCCCCCCC#N | C7H12BrN
reactant | sodium sulfite | 63.5 mmol, 8.00 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 75 mL | CCO | C2H6O
solvent | H2O | 50 mL | O | H2O
product | 6-cyanohexane-l-sulfinic acid sodium salt | 3.00 g | [Na+].C(#N)CCCCCCS(=O)[O-] | InChI=1S/C7H13NO2S.Na/c8-6-4-2-1-3-5-7-11(9)10;/h1-5,7H2,(H,9,10);/q;+1/p-1
